* C:\Users\marsh\Documents\LTspice\TestBench.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N007 VSS PWL file=x3.txt
V2 N008 VSS PWL file=x2.txt
V3 N011 VSS PWL file=x1.txt
V4 N012 VSS PWL file=x0.txt
V5 N001 VSS PWL file=thr2.txt
V7 N002 VSS PWL file=thr1.txt
V8 N003 VSS PWL file=thr0.txt
X§X1 X1 VSS N001 T2 BUF
X§X2 X1 VSS N002 X1 BUF
X§X3 X1 VSS N007 X3 BUF
X§X4 X1 VSS N011 X1 BUF
X§X5 X1 VSS N012 X0 BUF
X§X6 X3 VSS N008 X2 BUF
X§X7 X1 VSS N003 T0 BUF
V6 X1 0 1
V9 VSS 0 0
X§X8 ABS X1 VSS N005 INV32
X§X9 N005 X1 VSS N006 INV128
X§X10 X0 X1 X2 X3 T0 X1 T2 ABS N004 0 EE115Cbaseline
X§X11 N009 N009 N009 N009 N013 N013 N013 out N010 0 EE115Cbaseline
V10 N009 0 PULSE(0 1 0 10p 10p 1000p 2000p)
V11 N013 0 0
V12 N004 0 1
V13 N010 N014 1
V14 N014 0 0

* block symbol definitions
.subckt BUF VDD VSS IN OUT
M1 N001 IN VSS VSS nmos45hp l=100n w=200n
M2 VDD IN N001 VDD pmos45hp l=100n w=300n
M3 OUT N001 VSS VSS nmos45hp l=100n w=200n
M4 VDD N001 OUT VDD pmos45hp l=100n w=300n
.ends BUF

.subckt INV32 IN VDD VSS OUT
M1 OUT IN VSS VSS nmos45hp l=100n w=6.4u
M2 VDD IN OUT VDD pmos45hp l=100n w=9.6u
.ends INV32

.subckt INV128 IN VDD VSS OUT
M1 OUT IN VSS VSS nmos45hp l=100n w=25.6u
M2 VDD IN OUT VDD pmos45hp l=100n w=38.4u
.ends INV128

.subckt EE115Cbaseline X0 X1 X2 X3 T0 T1 T2 ABS Vdd Vss
X§X1 X3 N001 Vdd Vss inva1
X§X6 N007 X1 X0 Vdd Vss nor1
X§X7 N001 X3 X1 Vss transgate1
X§X11 N012 N016 N014 Vdd Vss xor1
X§X12 N002 N006 N004 Vdd Vss nand1
X§X13 T2 N006 Vdd Vss inva1
X§X16 T1 N010 Vdd Vss inva1
X§X17 Vss T1 N013 Vdd Vss xnor1
X§X19 T0 N015 Vdd Vss inva1
X§X15 N008 N013 X0 N015 N011 Vdd Vss 4innand3
X§X18 N008 Vss N010 N009 Vdd Vss 3innand2
X§X21 N001 X3 X2 N002 transgate2
X§X2 X3 N001 N005 N002 transgate3
X§X5 X3 N001 N014 Vss transgate4
X§X3 X2 N003 Vdd Vss ninva1
X§X8 X1 N012 Vdd Vss ninva2
X§X10 X0 N016 Vdd Vss inva1
X§X4 N003 N007 N005 Vdd Vss xor4
X§X9 N002 T2 N008 Vdd Vss xnor4
X§X14 N009 N004 N011 ABS Vdd Vss 3innand21
.ends EE115Cbaseline

.subckt inva1 IN OUT Vdd Vss
M1 Vdd IN OUT Vdd pmos45hp l=100n w=300n
M2 OUT IN Vss Vss nmos45hp l=100n w=200n
.inc C:\Users\marsh\Downloads\cmosedu_models.txt
.ends inva1

.subckt nor1 OUT A B Vdd Vss
M1 NC_01 A P001 Vdd pmos45hp l=100n w=562n
M2 P001 B OUT N001 pmos45hp l=100n w=562n
M3 OUT B Vss Vss nmos45hp l=100n w=187n
M4 OUT A Vss Vss nmos45hp l=100n w=187n
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends nor1

.subckt transgate1 Sbar S IN OUT
M1 IN S OUT IN pmos45hp l=100n w=200n
M2 IN Sbar OUT OUT nmos45hp l=100n w=200n
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends transgate1

.subckt xor1 A B OUT Vdd Vss
M1 B A OUT B pmos45hp l=100n w=900n
M2 OUT A N001 N001 nmos45hp l=100n w=600n
X§X2 B N001 Vdd Vss inva1
X§X1 N001 B OUT A transgate4
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends xor1

.subckt nand1 A B OUT Vdd Vss
M1 Vdd A OUT Vdd pmos45hp l=100n w=300n
M2 Vdd B OUT N001 pmos45hp l=100n w=300n
M3 OUT A N002 N002 nmos45hp l=100n w=400n
M4 N002 B Vss Vss nmos45hp l=100n w=400n
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends nand1

.subckt xnor1 A B OUT Vdd Vss
M1 N001 A OUT N001 pmos45hp l=100n w=600n
M2 OUT A B B nmos45hp l=100n w=300n
X§X1 B N001 OUT A transgate1
X§X2 B N001 Vdd Vss inva1
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends xnor1

.subckt 4innand3 A B C D OUT Vdd Vss
M1 Vdd A OUT Vdd pmos45hp l=100n w=745n
M3 OUT A P001 NC_01 nmos45hp l=100n w=1985n
M2 N001 NC_02 OUT NC_03 pmos45hp l=100n w=745n
M6 Vdd C OUT Vdd pmos45hp l=100n w=745n
M7 Vdd D OUT Vdd pmos45hp l=100n w=745n
M4 P001 B N002 N002 nmos45hp l=100n w=1985n
M5 N002 C N003 N003 nmos45hp l=100n w=1985n
M8 N003 D Vss Vss nmos45hp l=100n w=1985n
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends 4innand3

.subckt 3innand2 A B C OUT Vdd Vss
M1 Vdd A OUT Vdd pmos45hp l=100n w=300n
M2 Vdd B OUT N001 pmos45hp l=100n w=300n
M3 OUT A N002 N002 nmos45hp l=100n w=600n
M4 N002 B N003 N003 nmos45hp l=100n w=600n
M5 N003 C Vss Vss nmos45hp l=100n w=600n
M6 Vdd C OUT Vdd pmos45hp l=100n w=300n
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends 3innand2

.subckt transgate2 Sbar S IN OUT
M1 IN S OUT IN pmos45hp l=100n w=319n
M2 IN Sbar OUT OUT nmos45hp l=100n w=319n
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends transgate2

.subckt transgate3 Sbar S IN OUT
M1 IN S OUT IN pmos45hp l=100n w=956n
M2 IN Sbar OUT OUT nmos45hp l=100n w=956n
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends transgate3

.subckt transgate4 Sbar S IN OUT
M1 IN S OUT IN pmos45hp l=100n w=600n
M2 IN Sbar OUT OUT nmos45hp l=100n w=600n
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends transgate4

.subckt ninva1 IN OUT Vdd Vss
M1 Vdd IN OUT Vdd pmos45hp l=100n w=1433n
M2 OUT IN Vss Vss nmos45hp l=100n w=956n
.inc C:\Users\marsh\Downloads\cmosedu_models.txt
.ends ninva1

.subckt ninva2 IN OUT Vdd Vss
M1 Vdd IN OUT Vdd pmos45hp l=100n w=900n
M2 OUT IN Vss Vss nmos45hp l=100n w=600n
.inc C:\Users\marsh\Downloads\cmosedu_models.txt
.ends ninva2

.subckt xor4 A B OUT Vdd Vss
M1 B A OUT B pmos45hp l=100n w=1433n
M2 OUT A N001 N001 nmos45hp l=100n w=956n
X§X1 N001 B OUT A transgate3
X§X2 B N001 Vdd Vss ninva4
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends xor4

.subckt xnor4 A B OUT Vdd Vss
M1 N001 A OUT N001 pmos45hp l=100n w=1521n
M2 OUT A B B nmos45hp l=100n w=1014n
X§X1 B N001 OUT A transgate6
X§X2 B N001 Vdd Vss ninva5
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends xnor4

.subckt 3innand21 A B C OUT Vdd Vss
M1 Vdd A OUT Vdd pmos45hp l=100n w=891n
M2 Vdd B OUT N001 pmos45hp l=100n w=891n
M3 OUT A N002 N002 nmos45hp l=100n w=1782n
M4 N002 B N003 N003 nmos45hp l=100n w=1782n
M5 N003 C Vss Vss nmos45hp l=100n w=1782n
M6 Vdd C OUT Vdd pmos45hp l=100n w=891n
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends 3innand21

.subckt ninva4 IN OUT Vdd Vss
M1 Vdd IN OUT Vdd pmos45hp l=100n w=478n
M2 OUT IN Vss Vss nmos45hp l=100n w=315n
.inc C:\Users\marsh\Downloads\cmosedu_models.txt
.ends ninva4

.subckt transgate6 Sbar S IN OUT
M1 IN S OUT IN pmos45hp l=100n w=1014n
M2 IN Sbar OUT OUT nmos45hp l=100n w=1014n
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends transgate6

.subckt ninva5 IN OUT Vdd Vss
M1 Vdd IN OUT Vdd pmos45hp l=100n w=760n
M2 OUT IN Vss Vss nmos45hp l=100n w=507n
.inc C:\Users\marsh\Downloads\cmosedu_models.txt
.ends ninva5

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\marsh\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 500n 0 2p
.inc "C:\Users\marsh\Documents\LTspice\cmosedu_models.txt"
.backanno
.end
