* C:\Users\marsh\Documents\LTspice\TestEE115C.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N001 0 PULSE(0 1 0 5ns 5ns 10ms 20ms)
X§X1 NC_01 NC_02 NC_03 xor1
V2 N003 0 PULSE(0 0 0 5ns 5ns 10ms 20ms)
X§X2 N004 N001 N005 N007 transgate1
X§X3 N001 N004 inva1
V3 N005 0 1
X§X4 N008 N004 N006 N005 transgate1
X§X5 N001 N008 N006 N009 transgate1
X§X6 N005 N009 inva1
X§X7 N001 N003 N002 xnor1

* block symbol definitions
.subckt xor1 A B OUT
M1 B A OUT B pmos45hp l=100n w=900n
M2 OUT A N001 N001 nmos45hp l=100n w=600n
X§X1 N001 B OUT A transgate1
X§X2 B N001 inva1
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends xor1

.subckt transgate1 Sbar S IN OUT
M1 IN S OUT IN pmos45hp l=100n w=200n
M2 IN Sbar OUT OUT nmos45hp l=100n w=200n
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends transgate1

.subckt inva1 IN OUT
M1 N001 IN OUT N001 pmos45hp l=100n w=300n
M2 OUT IN 0 0 nmos45hp l=100n w=200n
V1 N001 0 1
.inc C:\Users\marsh\Downloads\cmosedu_models.txt
.ends inva1

.subckt xnor1 A B OUT
M1 N001 A OUT N001 pmos45hp l=100n w=300n
M2 OUT A B B nmos45hp l=100n w=300n
X§X1 B N001 OUT A transgate1
X§X2 B N001 inva1
.inc "C:\Users\marsh\Downloads\cmosedu_models.txt"
.ends xnor1

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\marsh\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100ms
.backanno
.end
